* Folded Cascode OTA - AC Test

.include '180nm_bulk.lib'
*.include 'params.inc'

V1 Vp GND DC 0.9 AC 0.2
V2 Vn GND DC 0.9 AC -0.2
C2 Vout GND 4p
C1 Vout net3 {cm}

M7 Vout net6 VDD VDD PMOS1 l={l7} w={w7}
M6 Vout net3 GND GND NMOS1 l={l6} w={w6}
M2 net3 Vp net1 VDD PMOS1 l={l12} w={w12}
M1 net2 Vn net1 VDD PMOS1 l={l12} w={w12}
M4 net3 net2 GND GND NMOS1 l={l34} w={w34}
M3 net2 net2 GND GND NMOS1 l={l34} w={w34}
M5 net1 net6 VDD VDD PMOS1 l={l5} w={w5}
V0 VDD GND DC {vdd}
M8 net6 net6 VDD VDD PMOS1 l={l8} w={w8}
I1 net6 GND DC 10u

*.nodeset v(net1)=1.5 v(net2)=1.5 v(net3)=1.5

.ac dec 100 1k 100Meg

*.options numdgt=6 itl1=200 itl2=200

.control
set filetype=ascii
run
ac dec 100 1k 100Meg
print v(vp) > ac_vp.txt
print v(vn) > ac_vn.txt
print frequency v(vout) > ac_out.txt
*plot v(vout)/v(vp) vs frequency
.endc

.end