* Folded Cascode OTA - AC Test (NgSpice Template)

.include '/home/runner/work/LEDRO/LEDRO/optimizer/working_current/spectre_simulator/spectre/180nm_bulk.lib'

* Simple folded cascode amplifier for 180nm process
V1 Vp GND DC 0.9 AC 0.2
V2 Vn GND DC 0.9 AC -0.2
C2 Vout GND 4p
C1 Vout net3 1p

* Transistor sizing using template parameters
M7 Vout net6 VDD VDD PMOS1 l={{nA1|default(0.25e-6)}} w={{nB1*0.18e-6|default(0.9e-6)}}
M6 Vout net3 GND GND NMOS1 l={{nA3|default(0.18e-6)}} w={{nB3*0.18e-6|default(0.54e-6)}}
M2 net3 Vp net1 VDD PMOS1 l={{nA2|default(0.28e-6)}} w={{nB2*0.18e-6|default(0.36e-6)}}
M1 net2 Vn net1 VDD PMOS1 l={{nA2|default(0.28e-6)}} w={{nB2*0.18e-6|default(0.36e-6)}}
M4 net3 net2 GND GND NMOS1 l={{nA4|default(0.42e-6)}} w={{nB4*0.18e-6|default(0.36e-6)}}
M3 net2 net2 GND GND NMOS1 l={{nA4|default(0.42e-6)}} w={{nB4*0.18e-6|default(0.36e-6)}}
M5 net1 net6 VDD VDD PMOS1 l={{nA5|default(0.32e-6)}} w={{nB5*0.18e-6|default(0.9e-6)}}
V0 VDD GND DC {{vdd|default(0.8)}}
M8 net6 net6 VDD VDD PMOS1 l={{nA6|default(0.45e-6)}} w={{nB6*0.18e-6|default(0.72e-6)}}
I1 net6 GND DC 10u

.ac dec 100 1k 100Meg

.control
set filetype=ascii
run
ac dec 100 1k 100Meg
* Generate output in format expected by NgSpiceAdapter
* frequency Voutp Voutn
print frequency v(vout) v(vn) > ac_out.txt
.endc

.end