* Simple test circuit

.include '180nm_bulk.lib'

* Simple transistor test
VDD VDD GND DC 1.8
VGS VG GND DC 0.7
VDS VD GND DC 0.9

M1 VD VG GND GND NMOS1 l=0.18u w=1u

.ac dec 10 1k 1Meg

.control
set filetype=ascii
run
ac dec 10 1k 1Meg
print frequency v(vd) v(vg) > ac_out.txt
.endc

.end